US07816369B2
A solution of 2-chloro-5-[(2-methyl-6-trifluoromethyl-pyridine-3-carbonyl)-amino]-benzoic acid methyl ester (6.68 g; 18 mmol) in tetrahydrofuran (100 ml) was cooled to 0° C. Lithium borohydride (0.98 g; 45 mmol) was added portionwise and the reaction mixture allowed to warn to room temperature, followed by heating at 45° C. for 4 hours. The reaction was allowed to cool to room temperature and saturated sodium bicarbonate solution (100 ml) was added. This was extracted with ethyl acetate (3×50 ml). The organic layers were dried (magnesium sulphate), filtered and evaporated. The residue was purified by column chromatography (50% ethyl acetate in heptane) to give N-(4-chloro-3-hydroxymethyl-phenyl)-2-methyl-6-trifluoromethyl-nicotinamide (3.29 g, 54%).

reactant | 2-chloro-5-[(2-methyl-6-trifluoromethyl-pyridine-3-carbonyl)-amino]-benzoic acid methyl ester | 18 mmol, 6.68 g | COC(C1=C(C=CC(=C1)NC(=O)C=1C(=NC(=CC1)C(F)(F)F)C)Cl)=O | C16H12ClF3N2O3
reactant | Lithium borohydride | 45 mmol, 0.98 g | [BH4-].[Li+]
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(4-chloro-3-hydroxymethyl-phenyl)-2-methyl-6-trifluoromethyl-nicotinamide | 3.29 g, 54% | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)CO | C15H12ClF3N2O2
